simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vweight0 (weight0 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=1n period=2n
Vweight1 (weight1 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=2n period=4n
Vweight2 (weight2 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=4n period=8n
Vweight3 (weight3 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=8n period=16n

XDUT (weight0 weight1 weight2 weight3 vdd vss analog_sum glitch_guard) v2_binary_dac_weighted_sum_4b_000

tran tran stop=120n maxstep=500p
save weight0 weight1 weight2 weight3 analog_sum glitch_guard
